US08193236B2
(5-Methyl-2-trifluoromethyl-1H-indol-3-yl)-acetic acid ethyl ester
A mixture of 5,5,5-trifluoro-4-oxo-pentanoic acid ethyl ester (6.00 g, 30.3 mmol) and p-tolylhydrazine hydrochloride (4.80 g, 30.3 mmol) in ethanol (25 mL) is cooled to 0° C. The solution is saturated with HCl gas and heated at reflux for 18 h under an argon atmosphere. After cooling to room temperature the reaction mixture is concentrated by rotary evaporation. The residue is partitioned between a saturated aqueous NaHCO3 solution and EtOAc. The layers are separated and the aqueous phase is extracted with twice with EtOAc. The combined organic layers are washed with brine, dried over Na2SO4, filtered and concentrated at reduced pressure to afford a brown oil. Purification by flash column chromatography (silica gel, gradient of cyclohexane/EtOAc 10:0 to 9:1) affords the title compound as orange crystals (5.14 g, 18.0 mmol, 60%). 1H NMR (400 MHz, CDCl3, 298 K): δ=12.17 (bs, 1H), 7.63 (s, 1H), 7.52 (d, J=8.3 Hz, 1H), 7.31 (d, J=8.3 Hz, 1H), 4.25 (q, J=7.1 Hz, 2H), 4.06 (s, 2H), 2.57 (s, 3H), 1.34 (t, J=7.1 Hz, 3H). MS (ES+): 286 (M(C14H14F3NO2)+H)+.

reactant | 5,5,5-trifluoro-4-oxo-pentanoic acid ethyl ester | 30.3 mmol, 6.00 g | C(C)OC(CCC(C(F)(F)F)=O)=O | C7H9F3O3
reactant | p-tolylhydrazine hydrochloride | 30.3 mmol, 4.80 g | Cl.C1(=CC=C(C=C1)NN)C
reactant | HCl | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | (5-Methyl-2-trifluoromethyl-1H-indol-3-yl)-acetic acid ethyl ester | 18.0 mmol, 5.14 g, 60% | C(C)OC(CC1=C(NC2=CC=C(C=C12)C)C(F)(F)F)=O | C14H14F3NO2
